US07622502B2
Step 8: 6-hydroxyhexane-1,2-diyl dinitrate
To a solution of 5,6-bis(nitrooxy)hexyl acetate (31.3 g, 118 mmol) in THF-EtOH (1:1, 0.492 M) at 0° C., was added a solution of sodium hydroxide (2 N, 126 mL, 251 mmol, 2.1 equiv) dropwise over 5 min. The reaction was stirred at rt for 2 h. The reaction mixture was quenched with a saturated NaHCO3 solution and extracted 3 times with EA. The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The product was purified by combi-flash 2×120 g silica gel cartridge using gradient (0-5% in 5 min, 5-55% in 30 min, 55-70% BA/Hex in 10 min) to afford the desired product (24.5 g, Yield=92%) as a pale yellowish oil. 1H NMR (500 MHz, acetone-d6): δ 5.53-5.47 (m, 1H), 5.00 (dd, 1H), 4.72 (dd, 1H), 3.55 (d, 2H), 3.50 (t, 1H), 1.88-1.80 (m, 2H), 1.58-1.51 (m, 4H).

reactant | 5,6-bis(nitrooxy)hexyl acetate | 118 mmol, 31.3 g | C(C)(=O)OCCCCC(CO[N+](=O)[O-])O[N+](=O)[O-] | C8H14N2O8
reactant | sodium hydroxide | 251 mmol, 2 N, 126 mL, 2.1 equiv | [OH-].[Na+]
solvent | THF EtOH | 0.492 M | C1CCOC1.CCO
product | 6-hydroxyhexane-1,2-diyl dinitrate | 24.5 g, Yield=92% | [N+](=O)(OCC(CCCCO)O[N+](=O)[O-])[O-] | C6H12N2O7
